*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 09:41:59 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "DFFX1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  DFFX1 CK D Q QN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 5.20509e-16
*|P (CK X 0 0.9420 2.7940)
*|I (MX57/M0#g MX57/M0 g X 0 0.4750 0.8025)
*|I (MX59/M0#g MX59/M0 g X 0 0.4750 3.2375)
*|S (CK#7 0.4750 2.6500)
*|S (CK#8 0.9050 2.6500)
*|S (CK#11 0.9235 2.6500)
*|S (CK#12 0.9235 2.7940)
C1 MX59/M0#g VSS 5.26663e-17
C2 MX57/M0#g VSS 4.79125e-17
C3 CK#12 VSS 1.65093e-16
C4 CK#11 VSS 1.09281e-16
C5 CK#8 VSS 6.75657e-17
C6 CK#7 VSS 7.79904e-17
Rg1 MX59/M0#g CK#7 169.942413 $W=0.15
Rg2 CK#7 MX57/M0#g 574.822449 $W=0.15
Rf3 CK#8 CK#7 47.376472 $W=0.17
Re4 CK#8 CK#11 152.001862 $W=1.24
Re5 CK#12 CK 0.001865 $W=1.24
Re6 CK#11 CK#12 0.069231 $W=0.26
*
*|NET D 4.48328e-16
*|P (D X 0 0.9320 1.2490)
*|I (MX53/M0#g MX53/M0 g X 0 0.9050 0.8025)
*|I (MX55/M0#g MX55/M0 g X 0 0.9050 3.2375)
*|S (D#7 0.9050 1.2900)
*|S (D#8 0.9200 1.2900)
C7 MX55/M0#g VSS 4.78115e-17
C8 MX53/M0#g VSS 3.7561e-17
C9 D#7 VSS 9.88266e-17
C10 D VSS 2.64129e-16
Rg7 MX55/M0#g D#7 606.955750 $W=0.15
Rg8 D#7 MX53/M0#g 137.809082 $W=0.15
Rf9 D#8 D#7 16.129412 $W=0.17
Re10 D D#8 152.019714 $W=0.26
*
*|NET Q 8.83684e-16
*|P (Q X 0 6.9120 1.9990)
*|I (MX68/M0#d MX68/M0 d X 0 7.1195 0.9700)
*|I (MX73/M0#d MX73/M0 d X 0 7.1195 2.9850)
*|S (Q#2 6.9800 2.9450)
*|S (Q#3 6.9800 1.0050)
C11 MX68/M0#d VSS 1.17218e-16
C12 Q#3 VSS 2.2719e-16
C13 Q#2 VSS 4.07633e-16
C14 Q VSS 1.31643e-16
Rf11 MX73/M0#d Q#2 5.616868 $W=0.83
Rf12 Q#3 MX68/M0#d 8.423712 $W=0.485
Re13 Q Q#3 76.382309 $W=0.325
Re14 Q Q#2 51.030514 $W=0.325
*
*|NET QN 5.57567e-16
*|P (QN X 0 7.8320 2.0740)
*|I (MX49/M0#d MX49/M0 d X 0 7.7005 0.9700)
*|I (MX52/M0#d MX52/M0 d X 0 7.7005 2.9850)
*|S (QN#2 7.8400 2.9450)
*|S (QN#3 7.8400 1.0050)
C15 MX49/M0#d VSS 8.74966e-17
C16 QN#3 VSS 1.49054e-16
C17 QN#2 VSS 2.47907e-16
C18 QN VSS 7.31095e-17
Rf15 MX52/M0#d QN#2 5.616868 $W=0.83
Rf16 QN#3 MX49/M0#d 8.423712 $W=0.485
Re17 QN QN#3 76.510994 $W=0.26
Re18 QN QN#2 51.080837 $W=0.26
*
*|NET 1 1.11098e-16
*|I (MX53/M0#d MX53/M0 d X 0 0.9805 0.8025)
*|I (MX50/M0#s MX50/M0 s X 0 1.2595 0.8025)
*|S (1 1.1200 0.8000)
C19 1 VSS 1.11098e-16
Rmw19 MX53/M0#d 1 0.001000 $W=1000000
Rmw20 MX50/M0#s 1 0.001000 $W=1000000
*
*|NET 3 1.43048e-16
*|I (MX55/M0#d MX55/M0 d X 0 0.9805 3.2375)
*|I (MX51/M0#s MX51/M0 s X 0 1.2595 3.2375)
*|S (3 1.1200 3.2350)
C20 3 VSS 1.43048e-16
Rmw21 MX55/M0#d 3 0.001000 $W=1000000
Rmw22 MX51/M0#s 3 0.001000 $W=1000000
*
*|NET 5 1.11551e-16
*|I (MX66/M0#s MX66/M0 s X 0 1.8405 0.8025)
*|I (MX54/M0#d MX54/M0 d X 0 2.1195 0.8025)
*|S (5 1.9800 0.8000)
C21 5 VSS 1.11551e-16
Rmw23 MX66/M0#s 5 0.001000 $W=1000000
Rmw24 MX54/M0#d 5 0.001000 $W=1000000
*
*|NET 7 1.37856e-16
*|I (MX56/M0#d MX56/M0 d X 0 2.1195 3.2375)
*|I (MM0#d MM0 d X 0 1.8405 3.2375)
*|S (7 1.9800 3.2350)
C22 7 VSS 1.37856e-16
Rmw25 MX56/M0#d 7 0.001000 $W=1000000
Rmw26 MM0#d 7 0.001000 $W=1000000
*
*|NET 9 1.30091e-16
*|I (MX71/M0#d MX71/M0 d X 0 4.7895 3.2375)
*|I (MM1#d MM1 d X 0 4.5105 3.2375)
*|S (9 4.6500 3.2350)
C23 9 VSS 1.30091e-16
Rmw27 MX71/M0#d 9 0.001000 $W=1000000
Rmw28 MM1#d 9 0.001000 $W=1000000
*
*|NET 15 1.89104e-15
*|I (MX66/M0#g MX66/M0 g X 0 1.7650 0.8025)
*|I (MX63/M0#g MX63/M0 g X 0 4.0050 0.8025)
*|I (MX58/M0#d MX58/M0 d X 0 2.7005 0.8025)
*|I (MX60/M0#d MX60/M0 d X 0 2.7005 3.2375)
*|I (MX51/M0#g MX51/M0 g X 0 1.3350 3.2375)
*|I (MM1#g MM1 g X 0 4.4350 3.2375)
*|S (15 4.4350 3.2375)
*|S (15#13 1.3350 2.5100)
*|S (15#14 1.7550 1.2900)
*|S (15#15 4.0050 1.2900)
*|S (15#16 4.4350 2.6500)
*|S (15#18 2.8400 3.0900)
*|S (15#19 2.8400 0.9300)
*|S (15#22 2.8400 1.2900)
*|S (15#25 2.8400 2.6500)
*|S (15#28 2.8400 2.6500)
*|S (15#29 2.8400 1.2900)
C24 MX51/M0#g VSS 5.05217e-17
C25 MX58/M0#d VSS 6.58313e-17
C26 MX63/M0#g VSS 4.54925e-17
C27 MX66/M0#g VSS 3.58047e-17
C28 15#19 VSS 1.02776e-16
C29 15#22 VSS 3.13418e-16
C30 15#25 VSS 3.31131e-16
C31 15#18 VSS 1.81712e-16
C32 15#13 VSS 1.78977e-16
C33 15#14 VSS 1.34111e-16
C34 15#15 VSS 1.70492e-16
C35 15#16 VSS 2.30252e-16
C36 15 VSS 5.05226e-17
Rg29 MX51/M0#g 15#13 214.929077 $W=0.15
Rg30 MX66/M0#g 15#14 133.085556 $W=0.15
Rg31 MX63/M0#g 15#15 137.809082 $W=0.15
Rg32 15 15#16 169.942413 $W=0.15
Rf33 MX60/M0#d 15#18 25.917646 $W=0.17
Rf34 15#19 MX58/M0#d 24.788235 $W=0.17
Rf35 15#15 15#22 102.717644 $W=0.17
Rf36 15#22 15#14 96.694115 $W=0.17
Rf37 15#16 15#25 135.094116 $W=0.17
Rf38 15#25 15#13 124.707390 $W=0.17
Re39 15#18 15#28 152.239136 $W=0.23
Re40 15#28 15#29 0.739130 $W=0.23
Re41 15#29 15#19 152.195648 $W=0.23
Re42 15#25 15#28 152.000000 $W=0.0289
Re43 15#22 15#29 152.000000 $W=0.0289
Rmw44 MM1#g 15 0.001000 $W=1000000
*
*|NET 18 1.3641e-15
*|I (MX69/M0#d MX69/M0 d X 0 3.6505 0.8025)
*|I (MX63/M0#s MX63/M0 s X 0 3.9295 0.8025)
*|I (MX54/M0#g MX54/M0 g X 0 2.1950 0.8025)
*|I (MX70/M0#s MX70/M0 s X 0 3.9295 3.2375)
*|I (MX67/M0#d MX67/M0 d X 0 3.6505 3.2375)
*|I (MX56/M0#g MX56/M0 g X 0 2.1950 3.2375)
*|S (18 2.1950 3.2375)
*|S (18#7 2.2350 1.6300)
*|S (18#9 3.7900 3.0900)
*|S (18#10 3.7900 0.8500)
*|S (18#12 3.7900 1.6300)
C37 MX54/M0#g VSS 4.29843e-17
C38 MX69/M0#d VSS 9.09651e-17
C39 18#10 VSS 1.43713e-16
C40 18#12 VSS 4.62331e-16
C41 18#9 VSS 3.45423e-16
C42 18#7 VSS 2.31921e-16
C43 18 VSS 4.67642e-17
Rg45 18 18#7 492.978882 $W=0.15
Rg46 18#7 MX54/M0#g 242.338882 $W=0.15
Rf47 MX70/M0#s 18#9 25.917646 $W=0.17
Rf48 18#10 MX69/M0#d 18.764706 $W=0.17
Rf49 18#12 18#7 284.082336 $W=0.17
Re50 18#9 18#12 152.793472 $W=0.23
Re51 18#12 18#10 152.423920 $W=0.23
Rmw52 MX63/M0#s MX69/M0#d 0.001000 $W=1000000
Rmw53 MX67/M0#d MX70/M0#s 0.001000 $W=1000000
Rmw54 MX56/M0#g 18 0.001000 $W=1000000
*
*|NET 20 1.46518e-15
*|I (MX62/M0#g MX62/M0 g X 0 4.4350 0.8025)
*|I (MX58/M0#g MX58/M0 g X 0 2.6250 0.8025)
*|I (MX57/M0#d MX57/M0 d X 0 0.3995 0.8025)
*|I (MX50/M0#g MX50/M0 g X 0 1.3350 0.8025)
*|I (MX70/M0#g MX70/M0 g X 0 4.0050 3.2375)
*|I (MX60/M0#g MX60/M0 g X 0 2.6250 3.2375)
*|I (MX59/M0#d MX59/M0 d X 0 0.3995 3.2375)
*|I (MM0#g MM0 g X 0 1.7650 3.2375)
*|S (20 1.7650 3.2375)
*|S (20#19 1.5500 1.9700)
*|S (20#20 2.7150 1.9700)
*|S (20#21 4.2200 1.9700)
*|S (20#23 0.2600 3.0900)
*|S (20#24 0.2600 0.8500)
*|S (20#27 2.7150 1.9700)
*|S (20#28 1.5500 1.9700)
*|S (20#29 0.2600 1.9700)
C44 MX60/M0#g VSS 4.90054e-17
C45 MX70/M0#g VSS 6.08159e-17
C46 MX50/M0#g VSS 4.12725e-17
C47 MX57/M0#d VSS 5.03665e-17
C48 MX58/M0#g VSS 4.17219e-17
C49 MX62/M0#g VSS 4.33272e-17
C50 20#24 VSS 1.24744e-16
C51 20#29 VSS 1.92672e-16
C52 20#23 VSS 2.07273e-16
C53 20#19 VSS 1.64206e-16
C54 20#20 VSS 2.42984e-16
C55 20#21 VSS 1.95778e-16
C56 20 VSS 5.10146e-17
Rg55 20 20#19 418.796082 $W=0.15
Rg56 20#19 MX50/M0#g 386.662750 $W=0.15
Rg57 MX60/M0#g 20#20 387.607544 $W=0.15
Rg58 20#20 MX58/M0#g 355.474213 $W=0.15
Rg59 MX62/M0#g 20#21 386.662750 $W=0.15
Rg60 20#21 MX70/M0#g 418.796082 $W=0.15
Rf61 MX59/M0#d 20#23 25.917646 $W=0.17
Rf62 20#24 MX57/M0#d 18.764706 $W=0.17
Rf63 20#21 20#27 128.317642 $W=0.17
Rf64 20#27 20#28 87.717644 $W=0.17
Rf65 20#28 20#29 249.129410 $W=0.17
Rf66 20#20 20#27 15.000000 $W=0.0289
Rf67 20#19 20#28 15.000000 $W=0.0289
Re68 20#23 20#29 152.608688 $W=0.23
Re69 20#29 20#24 152.608688 $W=0.23
Rmw70 MM0#g 20 0.001000 $W=1000000
*
*|NET 22 2.02287e-15
*|I (MX69/M0#g MX69/M0 g X 0 3.5750 0.8025)
*|I (MX66/M0#d MX66/M0 d X 0 1.6895 0.8025)
*|I (MX50/M0#d MX50/M0 d X 0 1.4105 0.8025)
*|I (MX67/M0#g MX67/M0 g X 0 3.5750 3.2375)
*|I (MX51/M0#d MX51/M0 d X 0 1.4105 3.2375)
*|I (MM0#s MM0 s X 0 1.6895 3.2375)
*|S (22#7 3.5750 2.3100)
*|S (22 3.4500 2.3100)
*|S (22#10 1.5500 3.0900)
*|S (22#11 1.5500 0.8500)
*|S (22#14 3.3050 2.3100)
C57 MX67/M0#g VSS 5.98342e-17
C58 MX66/M0#d VSS 8.14129e-17
C59 MX69/M0#g VSS 5.0707e-17
C60 22#11 VSS 4.35846e-16
C61 22#10 VSS 4.83182e-16
C62 22#14 VSS 9.11883e-16
Rg71 MX67/M0#g 22#7 293.052429 $W=0.15
Rg72 22#7 22 7.376061 $W=0.33
Rg73 22#7 MX69/M0#g 479.425751 $W=0.15
Rf74 MX51/M0#d 22#10 25.917646 $W=0.17
Rf75 22#11 MX66/M0#d 18.764706 $W=0.17
Rf76 22 22#14 177.917648 $W=0.17
Re77 22#10 22#14 153.821747 $W=0.23
Re78 22#14 22#11 153.984787 $W=0.23
Rmw79 MX50/M0#d MX66/M0#d 0.001000 $W=1000000
Rmw80 MM0#s MX51/M0#d 0.001000 $W=1000000
*
*|NET 26 1.24345e-15
*|I (MX68/M0#g MX68/M0 g X 0 7.1950 0.9700)
*|I (MX64/M0#g MX64/M0 g X 0 4.8650 0.8025)
*|I (MX61/M0#d MX61/M0 d X 0 5.3705 0.8025)
*|I (MX48/M0#g MX48/M0 g X 0 6.2450 0.8025)
*|I (MX73/M0#g MX73/M0 g X 0 7.1950 2.9850)
*|I (MX72/M0#g MX72/M0 g X 0 6.2450 3.2375)
*|I (MX71/M0#g MX71/M0 g X 0 4.8650 3.2375)
*|I (MX65/M0#d MX65/M0 d X 0 5.3705 3.2375)
*|S (26#19 4.8650 1.9700)
*|S (26#20 6.1850 1.9700)
*|S (26 7.1050 1.9700)
*|S (26#23 5.5100 2.9900)
*|S (26#24 5.5100 0.8900)
*|S (26#27 6.1850 1.9700)
*|S (26#28 5.5100 1.9700)
*|S (26#31 5.5100 1.9700)
C63 MX71/M0#g VSS 4.64916e-17
C64 MX72/M0#g VSS 5.15243e-17
C65 MX73/M0#g VSS 7.45382e-17
C66 MX48/M0#g VSS 4.75924e-17
C67 MX61/M0#d VSS 6.98234e-17
C68 MX64/M0#g VSS 3.63986e-17
C69 MX68/M0#g VSS 6.38333e-17
C70 26#24 VSS 1.04544e-16
C71 26#28 VSS 1.58979e-16
C72 26#23 VSS 2.46773e-16
C73 26#19 VSS 9.38649e-17
C74 26#20 VSS 1.17394e-16
C75 26 VSS 1.31695e-16
Rg81 MX71/M0#g 26#19 388.449097 $W=0.15
Rg82 26#19 MX64/M0#g 356.315735 $W=0.15
Rg83 MX72/M0#g 26#20 393.172607 $W=0.15
Rg84 26#20 MX48/M0#g 361.039276 $W=0.15
Rg85 MX73/M0#g 26 302.491516 $W=0.15
Rg86 26 MX68/M0#g 297.671509 $W=0.15
Rf87 MX65/M0#d 26#23 33.447060 $W=0.17
Rf88 26#24 MX61/M0#d 21.776470 $W=0.17
Rf89 26 26#27 84.270584 $W=0.17
Rf90 26#27 26#28 50.823528 $W=0.17
Rf91 26#28 26#19 63.564705 $W=0.17
Rf92 26#20 26#27 15.000000 $W=0.0289
Re93 26#23 26#31 76.554344 $W=0.23
Re94 26#31 26#24 152.586960 $W=0.23
Re95 26#28 26#31 152.000000 $W=0.0289
*
*|NET 28 1.10885e-15
*|I (MX63/M0#d MX63/M0 d X 0 4.0805 0.8025)
*|I (MX62/M0#d MX62/M0 d X 0 4.3595 0.8025)
*|I (MX61/M0#g MX61/M0 g X 0 5.2950 0.8025)
*|I (MX70/M0#d MX70/M0 d X 0 4.0805 3.2375)
*|I (MX65/M0#g MX65/M0 g X 0 5.2950 3.2375)
*|I (MM1#s MM1 s X 0 4.3595 3.2375)
*|S (28 5.2950 3.2375)
*|S (28#7 5.3550 2.3100)
*|S (28#9 4.2200 3.0900)
*|S (28#10 4.2200 0.8500)
*|S (28#13 4.2200 2.3100)
C76 MX61/M0#g VSS 5.01974e-17
C77 MX63/M0#d VSS 8.18287e-17
C78 28#10 VSS 1.87819e-16
C79 28#13 VSS 3.51072e-16
C80 28#9 VSS 2.35696e-16
C81 28#7 VSS 1.51909e-16
C82 28 VSS 5.03301e-17
Rg96 28 28#7 283.919281 $W=0.15
Rg97 28#7 MX61/M0#g 470.292603 $W=0.15
Rf98 MX70/M0#d 28#9 25.917646 $W=0.17
Rf99 28#10 MX63/M0#d 18.764706 $W=0.17
Rf100 28#7 28#13 252.458832 $W=0.17
Re101 28#9 28#13 152.423920 $W=0.23
Re102 28#13 28#10 152.793472 $W=0.23
Rmw103 MX62/M0#d MX63/M0#d 0.001000 $W=1000000
Rmw104 MX65/M0#g 28 0.001000 $W=1000000
Rmw105 MM1#s MX70/M0#d 0.001000 $W=1000000
*
*|NET 32 1.19782e-15
*|I (MX49/M0#g MX49/M0 g X 0 7.6250 0.9700)
*|I (MX48/M0#d MX48/M0 d X 0 6.3205 0.8025)
*|I (MX72/M0#d MX72/M0 d X 0 6.3205 3.2375)
*|I (MX52/M0#g MX52/M0 g X 0 7.6250 2.9850)
*|S (32 7.6250 2.9850)
*|S (32#7 7.7150 1.6300)
*|S (32#9 6.4600 2.9450)
*|S (32#10 6.4600 1.0050)
*|S (32#13 6.4600 1.6300)
C83 MX48/M0#d VSS 9.93761e-17
C84 MX49/M0#g VSS 4.65136e-17
C85 32#10 VSS 1.51311e-16
C86 32#13 VSS 2.73334e-16
C87 32#9 VSS 4.02507e-16
C88 32#7 VSS 1.66103e-16
C89 32 VSS 5.8676e-17
Rg106 32 32#7 411.744843 $W=0.15
Rg107 32#7 MX49/M0#g 188.418182 $W=0.15
Rf108 MX72/M0#d 32#9 36.835293 $W=0.17
Rf109 32#10 MX48/M0#d 30.435293 $W=0.17
Rf110 32#7 32#13 261.494110 $W=0.17
Re111 32#9 32#13 51.381340 $W=0.23
Re112 32#13 32#10 76.339676 $W=0.23
Rmw113 MX52/M0#g 32 0.001000 $W=1000000
*
*|NET 40 8.69696e-17
*|I (MX64/M0#d MX64/M0 d X 0 4.7895 0.8025)
*|I (MX62/M0#s MX62/M0 s X 0 4.5105 0.8025)
*|S (40 4.6500 0.8000)
C90 40 VSS 8.69696e-17
Rmw114 MX64/M0#d 40 0.001000 $W=1000000
Rmw115 MX62/M0#s 40 0.001000 $W=1000000
*
*Instance Section
*
MX69/M0	MX69/M0#d	MX69/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX68/M0	MX68/M0#d	MX68/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX66/M0	MX66/M0#d	MX66/M0#g	MX66/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX64/M0	MX64/M0#d	MX64/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX63/M0	MX63/M0#d	MX63/M0#g	MX63/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX62/M0	MX62/M0#d	MX62/M0#g	MX62/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX61/M0	MX61/M0#d	MX61/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX58/M0	MX58/M0#d	MX58/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX57/M0	MX57/M0#d	MX57/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX54/M0	MX54/M0#d	MX54/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX53/M0	MX53/M0#d	MX53/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX50/M0	MX50/M0#d	MX50/M0#g	MX50/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX49/M0	MX49/M0#d	MX49/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX48/M0	MX48/M0#d	MX48/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX73/M0	MX73/M0#d	MX73/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX72/M0	MX72/M0#d	MX72/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX71/M0	MX71/M0#d	MX71/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX70/M0	MX70/M0#d	MX70/M0#g	MX70/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX67/M0	MX67/M0#d	MX67/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX65/M0	MX65/M0#d	MX65/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX60/M0	MX60/M0#d	MX60/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX59/M0	MX59/M0#d	MX59/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX56/M0	MX56/M0#d	MX56/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX55/M0	MX55/M0#d	MX55/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX52/M0	MX52/M0#d	MX52/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX51/M0	MX51/M0#d	MX51/M0#g	MX51/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MM0	MM0#d	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM1	MM1#d	MM1#g	MM1#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
